US07589095B2
A: N,N-dibenzyl-3-cyclopentyl-aniline
A solution of bromo cyclopentane (7.62 g, 51.1 mmol) in dry THF (25 ml) was added dropwise to a suspension of magnesium turnings (1.24 g, 51 mmol) in ether (3 ml) under nitrogen at such a rate so to maintain the inner temperature between 45 to 50° C. (After addition of a few drops of solution the mixture was heated to about 50° C. to initiate the Grignard reagent formation) After 1.5 h the Grignard reagent was canulated into a dropping funnel, diluted with 25 ml of dry THF and added dropwise over 30 minutes to a cold (0° C.) solution of dried ZnBr2 (11.5 g, 51 mmol) in dry THF (90 ml) under a nitrogen atmosphere. After 15 minutes the reaction mixture was cooled to −60° C. and PdCl2(dppf)2 (249 mg, 0.34 mmol) was added (the solution became red). A solution of 3-bromo-N,N-Dibenzyl-aniline (6 g, 17 mmol) in dry THF (50 ml) was added to this solution over 35 minutes. The dry ice bath was then removed and the solution was allowed to warm to room temperature overnight. After addition of 3N HCl (70 ml), the THF was removed under reduced pressure. The aqueous residue was extracted three times with AcOEt (3×70 ml). The combined organic layers were washed with brine (50 ml), then with a saturated NaHCO3 solution (50 ml). The insoluble material was filtered off and the solution was washed again with brine (50 ml). The organic layer was dried over MgSO4 and concentrated under reduced pressure to give the above titled compound (5.8 g) which was used in the next step without any further purification.

reactant | bromo cyclopentane | 51.1 mmol, 7.62 g | BrC1CCCC1 | C5H9Br
reactant | magnesium | 51 mmol, 1.24 g | [Mg] | Mg
reactant | 3-bromo-N,N-Dibenzyl-aniline | 17 mmol, 6 g | BrC=1C=C(N(CC2=CC=CC=C2)CC2=CC=CC=C2)C=CC1 | C20H18BrN
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ether | 3 ml | CCOCC | C4H10O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | ZnBr2 | 51 mmol, 11.5 g | [Zn+2].[Br-].[Br-]
catalyst | PdCl2(dppf)2 | 0.34 mmol, 249 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N,N-dibenzyl-3-cyclopentyl-aniline | 5.8 g | C(C1=CC=CC=C1)N(C1=CC(=CC=C1)C1CCCC1)CC1=CC=CC=C1 | C25H27N
